US08541588B2
5-Chloro-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide
Trifluoroacetic acid (500 uL, 6 mmol) was added to a solution of 5-chloro-N-(2,4-dimethoxybenzyl)-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide (22 mg) in methylene chloride (5 mL, 70 mmol). After stirring 20 min, the reaction mixture was concentrated onto diatomaceous earth and purified by automated flash chromatography (4 g SiO2, methylene chloride to 9:1 methylene chloride-methanol) to afford the product as a tan solid (6 mg, 9%).

reactant | Trifluoroacetic acid | 6 mmol, 500 uL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-chloro-N-(2,4-dimethoxybenzyl)-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 22 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C=1SC=NN1)CC1=C(C=C(C=C1)OC)OC)F)OC1=C(C=C(C(=C1)F)C(F)(F)F)C1=CN=NC=C1 | C28H19ClF5N5O5S2
reactant | methylene chloride | 70 mmol, 5 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 6 mg, 9% | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1SC=NN1)F)OC1=C(C=C(C(=C1)F)C(F)(F)F)C1=CN=NC=C1 | C19H9ClF5N5O3S2
